US06043254
(a) 1-Acetyl-3-{1-hydroxy-1-[4-(imidazol-1-yl-methyl)-phenyl]-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 10(a) from 1-acetyl-5-nitro-indolinone and 4-(imidazol-1-ylmethyl)benzoic acid in dry DMF in the presence of TBTU, HOBT and Hunig's base.

reactant | 1-acetyl-5-nitro-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C10H8N2O4
reactant | 4-(imidazol-1-ylmethyl)benzoic acid | N1(C=NC=C1)CC1=CC=C(C(=O)O)C=C1 | C11H10N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Acetyl-3-{1-hydroxy-1-[4-(imidazol-1-yl-methyl)-phenyl]-methylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=C(C=C1)CN1C=NC=C1)O)=O | C21H16N4O5
